### ISSUE TITLE
type error in example, sensitive to simp attribute

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#1829]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

A type error that comes and goes depending on whether we use `simp [attribute] X in ...` on an earlier declaration.

### Steps to Reproduce

```
theorem eq_iff_true_of_subsingleton [Subsingleton α] (x y : α) : x = y ↔ True :=
  ⟨fun _ => ⟨⟩, fun _ => (Subsingleton.elim ..)⟩

/- comment out following `attribute [simp]` to make the example below work -/
attribute [simp] eq_iff_true_of_subsingleton in
example : True := trivial

structure Func' (α : Sort _) (β : Sort _) :=
(toFun    : α → β)

def r : Func' α α := ⟨id⟩

@[simp] theorem r_toFun {α : Sort u_1} (a : α) : Func'.toFun r a = id a := rfl

example (x y : α) (h : x = y) : r.toFun x = y := by simp <;> rw [h]
/-
in the presence of `attribute [simp] eq_iff_true_of_subsingleton in`, one gets

application type mismatch
  Eq
argument has type
  Sort u_1
but function has type
  {α : Prop} → α → α → Prop
-/

-- If we change `example` to `theorem`, it doesn't care about the `attribute [simp]`.
theorem noissue (x y : α) (h : x = y) : r.toFun x = y := by simp <;> rw [h]
```

With the `attribute [simp] eq_iff_true_of_subsingleton in` line, we get an error on the later example. Without the attribute, the error goes away.

**Expected behavior:** [What you expect to happen]

No errors!

### Versions

leanprover/lean4:nightly-2022-11-10

### Other information

(Minimised slightly from Yakov Pechersky's minimisation at https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/application.20type.20mismatch.20in.20example/near/309533447. We're seeing this in the mathlib4 port, e.g. https://github.com/leanprover-community/mathlib4/actions/runs/3460347374/jobs/5776794830.)

**Comment by kbuzzard** [comment]
#1814 also mentioned the same simp lemma

**Comment by gebner** [comment]
The `in example ..` is a red herring.  `attribute [simp] foo in ...` does exactly the same as `attribute [simp] foo`.

**Comment by gebner** [comment]
Another change that makes the issue disappear is to write `example {α : Sort u} ...`.  It seems to be related to the universe level metavariable.

**Comment by gebner** [comment]
What happens is that the typeclass synthesis in simp assigns the universe metavariable (since it finds the instance `Subsingleton (α : Prop)`).  Simplified repro:
```lean
theorem eq_iff_true_of_subsingleton [Subsingleton α] (x y : α) : x = y ↔ True :=
  ⟨fun _ => ⟨⟩, fun _ => (Subsingleton.elim ..)⟩

example (x y : α) : x = y := by simp [eq_iff_true_of_subsingleton]
```

**Comment by gebner** [comment]
Okay, now I'm really surprised.  Apparently @leodemoura added this bug/feature explicitly for simp lemmas in 99e8a98f067054ef70fcf15ad4af87d0c27ed7a5:
> We claim it is reasonable to ignore this restriction for universe metavariables because their values are often
> contrained by the terms is instances and simp theorems.

**Comment by digama0** [comment]
The commit references leanprover-community/mathport#16 as motivation, although I'm not sure what is going on there.

**Comment by gebner** [comment]
Looking through the commit, I believe the motivation was to make `CoeSort` work.  If that is the only application, we could just remove `ignoreLevelMVarDepth` entirely, and add the `coerceSort?` case to `coerce?`.

**Comment by leodemoura** [comment]
> Looking through the commit, I believe the motivation was to make CoeSort work. If that is the only application, we could just remove ignoreLevelMVarDepth entirely, and add the coerceSort? case to coerce?.

It was just the first example we hit in practice, there are many more now.
